US08865736B2
2-Bromomethyl-benzothiazole-6-carboxylic acid methyl ester
To a solution of 2-Hydroxymethyl-benzothiazole-6-carboxylic acid methyl ester (0.08 g, 0.40 mmol) in 5 ml of toluene and 1 ml of DMF was added PBr3 (0.06 ml, 0.60 mmol). The reaction mixture was heated at 120° C. for 20 min under nitrogen atmosphere. After the completion of the reaction mixture (TLC monitoring), water (25 mL) was added and extracted with ethyl acetate (3×50 mL). The combined organics was washed with water, brine, dried (Na2SO4), filtered and concentrated to get the desired product (0.044 g, 36%).

reactant | 2-Hydroxymethyl-benzothiazole-6-carboxylic acid methyl ester | 0.40 mmol, 0.08 g | COC(=O)C1=CC2=C(N=C(S2)CO)C=C1 | C10H9NO3S
reactant | PBr3 | 0.60 mmol, 0.06 ml | P(Br)(Br)Br | Br3P
reactant | water | 25 mL | O | H2O
solvent | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
solvent | DMF | 1 ml | CN(C)C=O | C3H7NO
product | 2-Bromomethyl-benzothiazole-6-carboxylic acid methyl ester | 0.044 g, 36% | COC(=O)C1=CC2=C(N=C(S2)CBr)C=C1 | C10H8BrNO2S
